US07989444B2
7-(3-{[5-(3,4-Difluorophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]thio}propyl)-2-ethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 2-ethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (0.25 mmol) and 3-[(3-chloropropyl)thio]-5-(3,4-difluorophenyl)-4-methyl-4H-1,2,4-triazole and was obtained as a faint yellow slightly hygroscopic solid (0.11 mmol).

reactant | 2-ethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 0.25 mmol | C(C)C=1OC2=CC3=C(CCNCC3)C=C2N1 | C13H16N2O
reactant | 3-[(3-chloropropyl)thio]-5-(3,4-difluorophenyl)-4-methyl-4H-1,2,4-triazole | ClCCCSC1=NN=C(N1C)C1=CC(=C(C=C1)F)F | C12H12ClF2N3S
product | 7-(3-{[5-(3,4-Difluorophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]thio}propyl)-2-ethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.FC=1C=C(C=CC1F)C=1N(C(=NN1)SCCCN1CCC2=C(CC1)C=C1C(=C2)OC(=N1)CC)C | InChI=1S/C25H27F2N5OS.ClH/c1-3-23-28-21-14-16-7-10-32(11-8-17(16)15-22(21)33-23)9-4-12-34-25-30-29-24(31(25)2)18-5-6-19(26)20(27)13-18;/h5-6,13-15H,3-4,7-12H2,1-2H3;1H
